US07678820B2
To a solution of 3-amino-4-hydroxybenzonitrile (730 mg) in DMF (10 ml) was added CDI (1.06 g) at 0° C., followed by stirring at room temperature for 3.5 hours. The reaction solution was diluted with water (10 ml), and extracted with EtOAc (200 ml). The organic layer was dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH=98:2 to 93:7) to obtain 2-oxo-2,3-dihydro-1,3-benzoxazole-5-carbonitrile (647 mg) as a pale yellow solid.

reactant | 3-amino-4-hydroxybenzonitrile | 730 mg | NC=1C=C(C#N)C=CC1O | C7H6N2O
reactant | CDI | 1.06 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-oxo-2,3-dihydro-1,3-benzoxazole-5-carbonitrile | 647 mg | O=C1OC2=C(N1)C=C(C=C2)C#N | C8H4N2O2
